US08053431B2
To a solution of 1-(2-cyanoethyl)-1H-benzimidazole-5-carboxylic acid methyl ester (4.0 g, 17.4 mmol) in THF (30 mL) was added LiOH (1.67 g, 69.79 mmol) in water (8 mL) followed by MeOH (2 mL). Stirring continued at the ambient temperature for 1 h. It was then concentrated and acidified with 2N HCl. The solids formed were filtered and dried which afforded 1-(2-cyanoethyl)-1H-benzoimidazole-5-carboxylic acid (3.5 g, 95%). 1H NMR (300 MHz, DMSO-d6) δ 3.1 (t, 2H), 4.6 (t, 2H), 7.8 (d, 1H), 7.9 (dd, 1H), 8.25 (d, 1H), 8.42 (s, 1H)

reactant | 1-(2-cyanoethyl)-1H-benzimidazole-5-carboxylic acid methyl ester | 17.4 mmol, 4.0 g | COC(=O)C1=CC2=C(N(C=N2)CCC#N)C=C1 | C12H11N3O2
reactant | LiOH | 69.79 mmol, 1.67 g | [Li+].[OH-]
reactant | MeOH | 2 mL | CO | CH4O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | water | 8 mL | O | H2O
product | 1-(2-cyanoethyl)-1H-benzoimidazole-5-carboxylic acid | 3.5 g, 95% | C(#N)CCN1C=NC2=C1C=CC(=C2)C(=O)O | C11H9N3O2
